US05563049
Namely, 2',3'-dideoxycytidine can be obtained according to the method of Horwitz et al in a way that N-benzoyl-2'-deoxy-3',5'-di-0-mesylcytidine derivable from 2'-deoxycytidine is refluxed with aqueous solution of sodium hydroxide in ethanol, then this is treated with dilute acetic acid, and further allowed to react with potassium tert-butoxide in dimethyl sulfoxide to obtain 2',3'-dideoxy-2',3'-didehydrocytidine, which is hydrogenated (J. Org. Chem., 32, 817, 1967).

reactant | 2'-deoxycytidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | ethanol | C(C)O | C2H6O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2',3'-dideoxy-2',3'-didehydrocytidine | [C@@H]1(C=C[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H11N3O3
